US06306818B1
Carbonic acid benzyl ester dec-9-enyl ester
Starting Material: dec-9-en-1-ol and benzyl chloroformate.

reactant | dec-9-en-1-ol | C(CCCCCCCC=C)O | C10H20O
reactant | benzyl chloroformate | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
product | Carbonic acid benzyl ester dec-9-enyl ester | C(CCCCCCCC=C)OC(OCC1=CC=CC=C1)=O | C18H26O3
